US07572820B2
2-Cyclopropyl-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 7.67 (d, J=8.5 Hz, 1H), 7.57 (m, 3H), 7.05 (t, J=8.5 Hz, 1H), 6.48 (s, 1H), 5.64 (s, 2H), 2.13 (m, 1H), 1.15 (m, 2H), 0.92 (m, 2H); MS (ES) m/z 445 (M+1).

reactant | 2-cyclopropyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H9F3N2
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
product | 2-Cyclopropyl-1-{[5-(3,5-difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | C1(CC1)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C22H13F5N4O
